US07402670B2
(2S)-2-(2-hydroxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester
This compound is prepared in a manner analogous to that described in Example 3, but 1-Boc-piperidine is used insead of 1-Boc-pyrrolidine, and (+)-sparteine surrogate is used instead of (−)-sparteine.

reactant | 1-Boc-piperidine | C(=O)(OC(C)(C)C)N1CCCCC1 | C10H19NO2
reactant | 1-Boc-pyrrolidine | C(=O)(OC(C)(C)C)N1CCCC1 | C9H17NO2
reactant | (+)-sparteine surrogate | CN1C[C@@H]2C[C@H](C1)[C@@H]3CCCCN3C2 | C12H22N2
product | (2S)-2-(2-hydroxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)CCO | C12H23NO3
